US04066710
6.7 g of 2,7-dimethyl-5,7-octadien-2-ol, 13 g of isopropenyl acetate and 0.1 g of p-toluenesulphonic acid are heated at reflux for 3 hours in a three-necked flask provided with a thermometer, stirrer and reflux condenser. The mixture is taken up in 100 ml of hexane and washed with a saturated sodium bicarbonate solution and with water. The solvent is distilled off and the residue fractionally distilled. There are obtained 3.4 g of 2,7-dimethyl-5,7-octadien-2-ol acetate of boiling point 60° C/0.2 mm Hg; nD20 = 1.4675; d420 = 0.9077. The yield is 40% of theory.

reactant | 2,7-dimethyl-5,7-octadien-2-ol | 6.7 g | CC(C)(CCC=CC(=C)C)O | C10H18O
reactant | isopropenyl acetate | 13 g | C(C)(=O)OC(=C)C | C5H8O2
solvent | hexane | 100 ml | CCCCCC | C6H14
catalyst | p-toluenesulphonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2,7-dimethyl-5,7-octadien-2-ol acetate | 3.4 g, yield is 40% | C(C)(=O)OC(C)(CCC=CC(=C)C)C | C12H20O2
